datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]N([C:20](=[O:10])OC1=CC=CC=C1)[H].[O-:21]CC>>[H]N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)[H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C(C)=C(C)C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)/C(C)=C(C)\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[O:10]([K])C([H])C(C)C(O)C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C(O)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][S+:10](C(CC)C(CC)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(CC)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)C)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)C)C1=CC=CC=C1 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CCCCCC)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C)[O-:10])CC>>CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C)CC 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[H][S+:10](C(C)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)[O][C:20]([S]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C([O-:21])[H])CC)CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OCC)CC.[O-:21]C>>[H]N([C:20]([O-:10])(OCC)[O:21]C)CC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[O:10]([K])C([H])C(C)C(C)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(C)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CC)C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][NH:10]C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21]CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(C)C(O)C([H])C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C([H])C(O)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]CC)([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O:10]C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"C9=CC=CC=C9[NH:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][NH:10][H].CC[NH+:21]=[C:20]([NH]C)[O]C.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]CC)([NH]C)[O]C 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)[H] 21=20;20,10=10"
